US06372764B1
1-(1-Naphthoyl)-3-(RS)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(SR)-(N-ethylaminocarbonyl)pyrrolidine
To a solution of 0.037 g (0.08 mmol) of 1-(1-naphthoyl)-3-(RS)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(SR)-carboxypyrrolidine and 0.06 mL (0.12 mmol) of ethylamine in 2 mL of CH2Cl2 at rt was added 0.031 g (0.12 mmol) of BOPCl Bis(2-oxo-3-oxazolidinyl)phosphinic chloride, Aldrich) and 0.045 mL Et3N and the reaction mixture was stirred for 18 h. The reAction mixture was concentrated and the residue was purified by chromatography (silica, acetone:hexanes, 1:2) to give the title compound. 1H NMR (CDCl3) δ (key peaks) 7.85-7.90 (m, 3H), 7.45-7.56 (m, 4H), 7.09-7.19 (m, 2H), 6.96-7.03 (m, 2H), 3.94-4.49 (m, 4H); Mass Spectrum (ESI) m/e=488 (M+1).

reactant | 1-(1-naphthoyl)-3-(RS)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(SR)-carboxypyrrolidine | 0.08 mmol, 0.037 g | C1(=CC=CC2=CC=CC=C12)C(=O)N1CC(C(C1)C(=O)O)CN1CCC(CC1)C1=CC=C(C=C1)F | C28H29FN2O3
reactant | ethylamine | 0.12 mmol, 0.06 mL | C(C)N | C2H7N
reactant | Et3N | 0.045 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 1-(1-Naphthoyl)-3-(RS)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(SR)-(N-ethylaminocarbonyl)pyrrolidine | C1(=CC=CC2=CC=CC=C12)C(=O)N1CC(C(C1)C(=O)NCC)CN1CCC(CC1)C1=CC=C(C=C1)F | C30H34FN3O2
